Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:9]([H:11])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:10]#[C:12][H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-1.43858037019
[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4](\[H:5])(=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][O:3],0.457976451361
[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2][O:3][C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.7815957075
[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:13]([C@:7]([O:6])([H:8])[C:9]([H:10])([H:11])[H:12])([H:14])[H:15],0.8600610882590001
[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[H:8])[O:9][H:10]>>[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3](=[C:4])[O:9][H:10],4.6412547571800005
[C:4]([H:5])=[C:6]([H:7])[H:8].[O:1]=[C:2]=[O:3]>>[O:1][C:2](=[O:3])[C:4]([H:5])=[C:6]([H:7])[H:8],-0.0335488507699
[C:1]=[O:2].[C:3][C:4][O:5]>>[C:1][O:2][C:3]=[C:4]=[O:5],0.77044534831
[H:1][C:2]=[C:3]([H:4])[O:5][H:6]>>[H:1][C:2]#[C:3][H:4].[O:5][H:6],2.96833782401
[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]([H:7])[H:8],-5.00294706436
[C:1][C:2]([H:3])([H:4])[O:5][C:6]=[C:7]([H:8])[H:9]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6]=[C:7]([H:8])[H:9],3.86995597409
[H:1][C:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[O:3],0.8654497568100001
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9](\[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:8],1.99280885755
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.16070029367
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],4.49877085365
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:11].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],4.471180104609999
[H:1][C:2]([H:3])=[C:4][C:11]([C:8]([O:7][C:5][H:6])([H:9])[H:10])([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]1=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-3.54125153818
[O:1]=[C:2]1[C:3][C:4]([O:5][H:6])[C:7]1([H:8])[H:9]>>[O:1]=[C:2]([C:3]#[C:4][O:5][H:6])[C:7]([H:8])[H:9],0.339048309381
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][H:8],4.60213301708
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11],3.75421068136
[C:3]([H:4])[H:5].[O:1]=[C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-5.22831905507
[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-5.40692694046
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.51079727407
[H:1][C:2]/[C:3]([C:4]#[C:5][H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],2.00374916294
[H:1]/[C:2](=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([C:6](=[C:3]([H:4])[H:5])[H:7])([H:15])[H:16]>>[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]1([H:15])[H:16],2.66172227741
[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:4][O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:3],2.45829333438
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8],7.24454240233
[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2][H:3].[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11],3.87059576559
[H:1][O:2][C:3]([H:4])[C@@:5]1([C:6]([H:7])([H:8])[H:9])[O:10][C:11]1([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](/[C:6]([H:7])([H:8])[H:9])[O:10][C:11]([H:12])[H:13],0.18240206938
